US07612067B2
Preparation of 5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-morpholin-4-yl-thiazole-4-carbonitrile
50 mg of 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.11 mmol), and 30 mg of CuCN (0.33 mmol) are put into 4 ml vial with 2 ml of DMF and the vial is capped with a Teflon cap. The vial is heated at 150° C. overnight. The reaction mixture is applied onto a silica-gel chromatography column (Hexane:AcOEt=5:1) to give 12.3 mg of the title compound. Yield 28%. Mass spectrum (m/e): 411 (M+1). 6.77 (s, 1H), 3.89 (t, J=4.8 Hz, 4H), 3.61 (t, J=5.0 Hz, 4H), 3.32 (m, 1H), 2.62 (s, 3H), 2.59 (s, 3H), 1.86 (m, 4H), 0.90 (t, J=7.4 Hz, 6H).

reactant | 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.11 mmol, 50 mg | BrC=1N=C(SC1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)N2CCOCC2 | C20H26BrN5OS
reactant | CuCN | 0.33 mmol, 30 mg | C(#N)[Cu]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | Hexane | CCCCCC | C6H14
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-morpholin-4-yl-thiazole-4-carbonitrile | 12.3 mg, Yield 28% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)N2CCOCC2)C#N | C21H26N6OS
